US05100911
4-Methoxy-2-thiophenecarbonyl chloride
24.0 g (152 mmol) 4-methoxy-2-thiophenecarboxylic acid were suspended in 250 ml thionyl chloride and heated for two hours under reflux. The excess thionyl chloride was then distilled off under vacuum. The crude product was quickly distilled off and crystallised out in the receiver.

reactant | 4-methoxy-2-thiophenecarboxylic acid | 152 mmol, 24.0 g | COC=1C=C(SC1)C(=O)O | C6H6O3S
reactant | thionyl chloride | 250 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-Methoxy-2-thiophenecarbonyl chloride | COC=1C=C(SC1)C(=O)Cl | C6H5ClO2S
